US08492559B2
Stage (i): 2,2,2-Trifluoro-1-(6-(piperidin-1-ylmethyl)-3,4-dihydroisoquinolin-2(1H)-yl)ethanone
2-(2,2,2-Trifluoroacetyl)-1,2,3,4-tetrahydroisoquinoline-6-carbaldehyde (2 g, 7.78 mmol) and piperidine (660 mg, 7.78 mmol) were dissolved in 1,2-dichloroethane (24 ml), and sodium triacetoxyborohydride (2.29 g, 10.89 mmol) was added. The reaction mixture was stirred for 15 h, then diluted with dichloromethane, and sat. sodium hydrogen carbonate solution (100 ml) was added. After phase separation, the aqueous phase was extracted with dichloromethane (3×100 ml). The combined organic phases were washed with sat. sodium chloride solution (50 ml), dried over magnesium sulfate and concentrated under vacuum. The crude product was purified by column chromatography (silica gel, ethyl acetate/dichloromethane/methanol 10:1:1+ammonia solution (25% aq.)). Yield: 1.88 g (74%)

reactant | 2-(2,2,2-Trifluoroacetyl)-1,2,3,4-tetrahydroisoquinoline-6-carbaldehyde | 7.78 mmol, 2 g | FC(C(=O)N1CC2=CC=C(C=C2CC1)C=O)(F)F | C12H10F3NO2
reactant | piperidine | 7.78 mmol, 660 mg | N1CCCCC1 | C5H11N
reactant | sodium triacetoxyborohydride | 10.89 mmol, 2.29 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | 1,2-dichloroethane | 24 ml | ClCCCl | C2H4Cl2
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | sodium hydrogen carbonate | 100 ml | C(O)([O-])=O.[Na+]
product | 2,2,2-Trifluoro-1-(6-(piperidin-1-ylmethyl)-3,4-dihydroisoquinolin-2(1H)-yl)ethanone | FC(C(=O)N1CC2=CC=C(C=C2CC1)CN1CCCCC1)(F)F | C17H21F3N2O
